US04260774
To a suspension of 508 mg of 4-carbamoylimidazolium-5-olate and 486 mg of triethylamine in 6 ml of anhydrous dimethylformamide was added 770 mg of p-chlorobenzoyl chloride in 3 ml of anhydrous dimethylformamide at a temperature below 5° C. The mixture was stirred under ice cooling for 4 hours. The insoluble crystals were filtered off, then the filtrate were concentrated to a residue under reduced pressure, and the resulting residue was dissolved in chloroform. The chloroform solution was washed with water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 5-carbamoyl-1H-imidazol-4-yl p-chlorobenzoate. The crude solid was washed with ethyl acetate to give 340 mg of pure product, m.p. 220° C. (charred).

reactant | 4-carbamoylimidazolium-5-olate | 508 mg | C(N)(=O)C=1NC=[NH+]C1[O-] | C4H5N3O2
reactant | triethylamine | 486 mg | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzoyl chloride | 770 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-carbamoyl-1H-imidazol-4-yl p-chlorobenzoate | ClC1=CC=C(C(=O)OC=2N=CNC2C(N)=O)C=C1 | C11H8ClN3O3
